US06593345B1
1-(4-Hydroxyphenoxy)-2-(3-methoxyphenyl)-6-methoxynaphthalene
2.3 g (6 mmol) of 1-(4-formylphenoxy)-2-(3-methoxyphenyl)-6-methoxynaphthalene was suspended in 15 mL of MeOH and 1.7 mL (9 mmol) of 30% H2O2 was added. To the stirring mixture, 0.76 mL of conc. H2SO4 was slowly added. An additional 30 mL of MeOH was added and the reaction was allowed to proceed for forty-eight hours. The reaction was neutralized with NaHCO3 solution and extracted with CHCl3. The CHCl3 was washed with brine, dried with Na2SO4, and chromatographed on a silica gel column eluted with CHCl3. This yielded 1.6 g of the title compound as a tan amorphous powder, mp 125-126° C.

reactant | 1-(4-formylphenoxy)-2-(3-methoxyphenyl)-6-methoxynaphthalene | 6 mmol, 2.3 g | C(=O)C1=CC=C(OC2=C(C=CC3=CC(=CC=C23)OC)C2=CC(=CC=C2)OC)C=C1 | C25H20O4
reactant | H2O2 | 9 mmol, 1.7 mL | OO | H2O2
reactant | H2SO4 | 0.76 mL | OS(=O)(=O)O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
product | 1-(4-Hydroxyphenoxy)-2-(3-methoxyphenyl)-6-methoxynaphthalene | OC1=CC=C(OC2=C(C=CC3=CC(=CC=C23)OC)C2=CC(=CC=C2)OC)C=C1 | C24H20O4
